US09034866B2
Synthesis of (R)-3-cyclopropyl-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-3-cyclopropyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol to give the titled compound. MS+419.2. 1H NMR (400 MHz, DMSO) δ 8.52 (d, J=2.2 Hz, 1H), 7.42 (br s, 1H), 7.31 (dd, J=8.5, 2.2 Hz, 1H), 7.02 (d, J=8.5 Hz, 1H), 6.95 (br s, 1H), 6.45 (s, 1H), 6.35 (s, 1H), 4.50 (m, 4H), 2.40 (s, 3H), 1.80 (s, 3H), 1.76 (m, 1H), 0.98 (m, 2H), 0.84 (m, 2H).

reactant | 10-bromo-3-cyclopropyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3CC3)C1 | C15H14BrN3O2
reactant | (R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | (R)-3-cyclopropyl-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | C1(CC1)C1=C(N=C2N1CCOC1=C2C=C(C=C1)C#C[C@](C)(C1=NOC(=C1)C)O)C(=O)N | C23H22N4O4
